US04985583
1 g of 4-dimethylaminopyridine and 22.3 g (0.1 mole) of 4-cyano-4-propylcyclohexanol (isomer mixture) [obtainable from 1,4-dioxaspiro[4,5]decan-8-one by introduction of the nitrile group with tosylmethyl isocyanide, alkylation with LDA and n-heptyl bromide, detachment of the keto-protective group and reduction of the ketone with NaBH4 ] are added to 26.6 g (0.1 mole) of 4'-butylbicyclohexane-4-carboxylic acid in 75 ml of CH2Cl2, with stirring. A solution of 21.7 g (0.105 mole) of dicyclohexylcarbodiimide in 50 ml of CH2Cl2 is added dropwise, while controlling the temperature, and the mixture is then stirred at room temperature for a further hour. The urea precipitated is separated off and the methylene chloride phase is washed with dilute HCl and saturated NaHCO3 solution and dried. After the solvent has been evaporated off, the residue is separated into its constituents by column chromatography (silica gel/petroleum ether (30-70):ether (5:1)). 4-(4-Cyano- 4-heptylcyclohexyloxycarbonyl)-4'-butylbicyclohexane is obtained.

reactant | 4-cyano-4-propylcyclohexanol | 0.1 mole, 22.3 g | C(#N)C1(CCC(CC1)O)CCC | C10H17NO
reactant | 1,4-dioxaspiro[4,5]decan-8-one | O1CCOC12CCC(CC2)=O | C8H12O3
reactant | tosylmethyl isocyanide | S(=O)(=O)(C1=CC=C(C)C=C1)C[N+]#[C-] | C9H9NO2S
reactant | LDA | [Li+].CC(C)[N-]C(C)C
reactant | n-heptyl bromide | C(CCCCCC)Br | C7H15Br
reactant | NaBH4 | [BH4-].[Na+]
reactant | 4'-butylbicyclohexane-4-carboxylic acid | 0.1 mole, 26.6 g | C(CCC)C1CCC(CC1)C1CCC(CC1)C(=O)O | C17H30O2
reactant | dicyclohexylcarbodiimide | 0.105 mole, 21.7 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
catalyst | 4-dimethylaminopyridine | 1 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | CH2Cl2 | 75 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
product | 4-(4-Cyano- 4-heptylcyclohexyloxycarbonyl)-4'-butylbicyclohexane | C(#N)C1(CCC(CC1)OC(=O)C1CCC(CC1)C1CCC(CC1)CCCC)CCCCCCC | C31H53NO2
